US08247583B2
Diethylene glycol (500 g (4.7 mol)), tetrabutylammonium bromide (5.0 g (15.5 mmol)) and 96% sodium hydroxide (50 g (1.2 mol)) were added to a glass flask having an inner volume of 1,000 ml equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser, and the mixture was warmed to 70° C. with stirring. Subsequently 3-ethyl-3-methanesulfonyloxymethyloxetane (216 g (1.0 mol)) having a purity of 90% (a value measured by 1H-NMR) was dropwise added and reacted for 2 hours while keeping the liquid temperature at 80-90° C. After the completion of the reaction, water (200 ml) was added to reaction liquid (a bisoxetane ether compound generated in the amount of only 9% (an analysis value by a gas chromatography)), and a liquid separation was performed to give an organic layer. Toluene (200 ml) and water (100 ml) were added to the resultant organic layer, and a liquid separation was performed. Subsequently a resultant aqueous layer was extracted with toluene (100 ml) twice. An extract (a toluene layer) and the previously obtained organic layer were mixed, and the mixture was concentrated under reduced pressure. A resultant concentrate was distilled under reduced pressure (142-145° C., 400 Pa) to give, as a colorless liquid, 3-ethyl-3-(2-hydroxyethyloxyethyl)oxymethyloxetane having a purity of 93% (an analysis value by a gas chromatography) (158 g) (an isolated yield based on 3-ethyl-3-methanesulfonyloxymethyloxetane: 72%).

reactant | Diethylene glycol | 4.7 mol, 500 g | C(COCCO)O | C4H10O3
reactant | sodium hydroxide | 1.2 mol, 50 g | [OH-].[Na+]
reactant | 3-ethyl-3-methanesulfonyloxymethyloxetane | 1.0 mol, 216 g | C(C)C1(COC1)COS(=O)(=O)C | C7H14O4S
catalyst | tetrabutylammonium bromide | 15.5 mmol, 5.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
solvent | Toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | 3-ethyl-3-(2-hydroxyethyloxyethyl)oxymethyloxetane | C(C)C1(COC1)COCCOCCO | C10H20O4
